### PR TITLE
[Merged by Bors] - feat(Algebra): congruence relation respecting SMul

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Congruence/Defs.lean [hunk 1]
```diff
@@ -58,6 +58,19 @@ structure AddCon [Add M] extends Setoid M where
...
+  /-- A `VAddCon` is closed under additive action. -/
+  vadd (s : S) {x y} : r x y → r (s +ᵥ x) (s +ᵥ y)
+
+/-- A congruence relation that preserves scalar multiplication. -/
+@[to_additive] structure SMulCon [SMul S M] extends Setoid M where
+  /-- A `SMulCon` is closed under scalar multiplication. -/
+  smul (s : S) {x y} : r x y → r (s • x) (s • y)
+
+/-- A congruence relation that preserves addition and scalar multiplication. -/
+structure AddSMulCon [Add M] [SMul S M] extends AddCon M, SMulCon S M
```
Comment (ADedecker) [inline Mathlib/GroupTheory/Congruence/Defs.lean]: I would expect this to be named `ModuleCon`, is there a reason not to?

Comment (ADedecker) [reply Mathlib/GroupTheory/Congruence/Defs.lean]: I would also expect these to be in a separate file with the same structure as this one and the one defining `RingCon`

**Comment by ADedecker** [comment]
Thanks for working on this, it happens that we will need this in order to properly generalize evaluation of power series to semirings (see draft #30631)!

The key is that the correct generalization of [IsLinearTopology](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/LinearTopology.html#IsLinearTopology) for semi-modules over semi-rings would be a predicate `IsLinearUniformity` asserting that, for a given uniform structure on the semi-module, the uniformity filter has a basis of module congruences.

File: Mathlib/GroupTheory/Congruence/Defs.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Congruence/Defs.lean]: > I would expect this to be named `ModuleCon`, is there a reason not to?

That's reasonable since you can regard this as the congruence version of Submodule (like AddCon is the congruence version of AddSubsemigroup). But AddSMulCon works equally well for [DistribMulAction](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Action/Defs.html#DistribMulAction), in which case AddSMulCon is more appropriate.

Comment (alreadydone) [reply Mathlib/GroupTheory/Congruence/Defs.lean]: > I would also expect these to be in a separate file with the same structure as this one and the one defining `RingCon`

I had trouble parsing what you said, but finally realized that you're saying I'm not copying enough API (like those available for (Add)Con and RingCon). I'm not interested in adding those for now (since my goal is #30657), but I can certainly move the new materials to a new file if you'd like.

Comment (ADedecker) [reply Mathlib/GroupTheory/Congruence/Defs.lean]: Sorry for the delayed answer. I'd prefer a new file indeed. 

Regarding naming, I claim that it is a case where we could use the more natural name even if the definition is actually more general (in the same way that `Module` is not named `SemiModule`). Also, remember that we considered weakening the assumption of `Submodule` to `DistribMulAction`, and we wouldn't have changed the name.

File: Mathlib/GroupTheory/Congruence/Defs.lean [hunk 2]
```diff
@@ -559,6 +575,9 @@ an `AddSemigroup`. -/]
 instance semigroup {M : Type*} [Semigroup M] (c : Con M) : Semigroup c.Quotient := fast_instance%
   Function.Surjective.semigroup _ Quotient.mk''_surjective fun _ _ => rfl
 
+@[to_additive] instance {M} [CommMagma M] (c : Con M) : CommMagma c.Quotient := fast_instance%
+  Function.Surjective.commMagma _ Quotient.mk''_surjective fun _ _ => rfl
```
Comment (ADedecker) [inline Mathlib/GroupTheory/Congruence/Defs.lean]:
```suggestion
/-- The quotient of a commutative magma by a congruence relation is a commutative magma. -/
@[to_additive /-- The quotient of an `AddCommMagma` by an additive congruence relation is
an `AddCommMagma`. -/]
instance commMagma {M : Type*} [CommMagma M] (c : Con M) : CommMagma c.Quotient := fast_instance%
  Function.Surjective.commMagma _ Quotient.mk''_surjective fun _ _ => rfl
```
(To match the style of everything around)

File: Mathlib/GroupTheory/Congruence/Defs.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/GroupTheory/Congruence/Defs.lean]: (And sorry for the hard-to-parse sentence, I wrote that too quickly!)

File: Mathlib/RingTheory/Finiteness/Cardinality.lean [hunk 3]
```diff
@@ -116,4 +121,24 @@ protected abbrev repr : Type u := _ ⧸ kerRepr R M
...
+noncomputable def kerReprₛ :=
+  AddSMulCon.ker (Finite.exists_fin' R M).choose_spec.choose.toDistribMulActionHom
+
+/-- A representative of a finite module in the same universe as the semiring. -/
+protected abbrev reprₛ : Type u := (kerReprₛ R M).Quotient
+
+/-- The representative is isomorphic to the original module. -/
+noncomputable def reprEquivₛ : Finite.reprₛ R M ≃ₗ[R] M :=
+  AddSMulCon.quotientKerEquivOfSurjective _ (Finite.exists_fin' R M).choose_spec.choose_spec
+
```
Comment (ADedecker) [inline Mathlib/RingTheory/Finiteness/Cardinality.lean:141]: What is your application for these? Is [Module.Finite.small](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Finiteness/Small.html#Module.Finite.small) not goot enough?

File: Mathlib/GroupTheory/Congruence/Defs.lean [hunk 4]
```diff
@@ -713,3 +732,62 @@ theorem induction_on_units {p : Units c.Quotient → Prop} (u : Units c.Quotient
...
+
+/-- The quotient by a congruence relation preserving scalar multiplication. -/
+@[to_additive /-- The quotient by a congruence relation preserving additive action. -/]
+protected def Quotient [SMul S M] (c : SMulCon S M) : Type _ := Quotient c.toSetoid
+
+@[to_additive] instance [SMul S M] (c : SMulCon S M) : SMul S c.Quotient where
+  smul s := Quotient.map (s • ·) (@c.smul s)
+
+@[to_additive] instance [SMul S M] [One M] (c : SMulCon S M) : One c.Quotient where
+  one := ⟦1⟧
```
Comment (ADedecker) [inline Mathlib/GroupTheory/Congruence/Defs.lean]: Here is a question: what justifies having this instance but not a generic instance of the form "if we have a one on a type its image in any quotient is denoted 1" ?

I haven't really thought about the possible implications, so if you don't need it I would be in favor of only keeping the zero instance for `AddSMulCon`.

File: Mathlib/RingTheory/Finiteness/Cardinality.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Finiteness/Cardinality.lean:141]: It's the semi-module versions of the existing [Module.Finite.kerRepr](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Finiteness/Cardinality.html#Module.Finite.kerRepr) etc., used [here](https://github.com/leanprover-community/mathlib4/pull/30657/files#diff-144b5f64627ab06b282beea08690707af5f05eb0dd0043b2669b4f3e208322e6R395-R400) to show that a chosen map from the Picard group to the type of `ModuleCon`s is injective. I need to use that `ModuleCon` is small to show the Picard group is small, it's not enough that the individual modules are small.

File: Mathlib/GroupTheory/Congruence/Defs.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Congruence/Defs.lean]: Yeah it's sensible to remove it.

File: Mathlib/GroupTheory/Congruence/Defs.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Congruence/Defs.lean]: moved to new file Mathlib.Algebra.Module.Congruence.Defs

File: Mathlib/Algebra/Module/Congruence/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,148 @@
...
+
+/-- The quotient by a congruence relation preserving scalar multiplication. -/
+@[to_additive /-- The quotient by a congruence relation preserving additive action. -/]
+protected def Quotient [SMul S M] (c : SMulCon S M) : Type _ := Quotient c.toSetoid
+
+@[to_additive] instance [SMul S M] (c : SMulCon S M) : SMul S c.Quotient where
+  smul s := Quotient.map (s • ·) (@c.smul s)
+
+instance [SMul S M] [Zero M] (c : SMulCon S M) : Zero c.Quotient where
+  zero := ⟦0⟧
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/Congruence/Defs.lean:44]: I don't want to remove this instance since SMulZeroClass/SMulWithZero instances rely on it (and only needs SMulCon, not ModuleCon).

File: Mathlib/RingTheory/Finiteness/Cardinality.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/RingTheory/Finiteness/Cardinality.lean:141]: Since this is a variation of something that already exists I'm fine with it. But IMHO a more natural proof in your application would be to write down an injective map from `(Skeleton <| SemimoduleCat.{u} R)ˣ` to `Skeleton (FGModuleCat R)`, which is known to be small thanks to [instEssentiallySmallFGModuleCat](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/FGModuleCat/EssentiallySmall.html#instEssentiallySmallFGModuleCat). (Of course this would require semiringifying this as well)

File: Mathlib/Algebra/Module/Congruence/Defs.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/Algebra/Module/Congruence/Defs.lean:44]: Fair enough.

File: Mathlib/Algebra/Colimit/Module.lean [hunk 6]
```diff
@@ -47,32 +47,31 @@ inductive DirectLimit.Eqv : DirectSum ι G → DirectSum ι G → Prop
   | of_map {i j} (h : i ≤ j) (x : G i) :
     Eqv (DirectSum.lof R ι G i x) (DirectSum.lof R ι G j <| f i j h x)
 
+/-- The congruence relation to quotient the direct sum by to obtain the direct limit. -/
+def DirectLimit.moduleCon [DecidableEq ι] : ModuleCon R (DirectSum ι G) where
+  toAddCon := addConGen (Eqv f)
+  smul r _ _ h := by
+    refine ((addConGen (Eqv f)).comap (smulAddHom R _ r) <| by simp).addConGen_le ?_ h
+    rintro _ _ ⟨⟩
+    simpa only [smulAddHom_apply, AddCon.comap_rel, ← map_smul] using .of _ _ (.of_map ..)
```
Comment (ADedecker) [inline Mathlib/Algebra/Colimit/Module.lean]:
```suggestion
-- The following shows in fact that the `AddCon` generated by a `SMulCon` is a `ModuleCon`
-- TODO: State, prove, and use this
  smul r _ _ h := by
    refine ((addConGen (Eqv f)).comap (smulAddHom R _ r) <| by simp).addConGen_le ?_ h
    rintro _ _ ⟨⟩
    simpa only [smulAddHom_apply, AddCon.comap_rel, ← map_smul] using .of _ _ (.of_map ..)
```

File: Mathlib/Algebra/Module/Congruence/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,148 @@
...
+
+instance [SMul S M] [AddGroup M] (c : ModuleCon S M) : AddGroup c.Quotient :=
+  inferInstanceAs (AddGroup c.toAddCon.Quotient)
+
+instance [SMul S M] [AddCommGroup M] (c : ModuleCon S M) : AddCommGroup c.Quotient :=
+  inferInstanceAs (AddCommGroup c.toAddCon.Quotient)
+
+end ModuleCon
+
+section Instance
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/Congruence/Defs.lean]: The sectioning here is a bit weird, could you move the instances below to either the `SMulCon` or the `ModuleCon` sections/namespaces instead? Or do you not want them namespaced for some reason?

File: Mathlib/Algebra/Module/Congruence/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,148 @@
...
+instance [Zero S] [Zero M] [SMulWithZero S M] (c : SMulCon S M) : SMulWithZero S c.Quotient where
+  zero_smul := by rintro ⟨⟩; exact congr_arg _ (zero_smul ..)
+
+instance [Zero S] [Zero M] [Add M] [SMulWithZero S M] (c : ModuleCon S M) :
+    SMulWithZero S c.Quotient :=
+  inferInstanceAs (SMulWithZero S c.toSMulCon.Quotient)
+
+@[to_additive] instance [Monoid S] [MulAction S M] (c : SMulCon S M) : MulAction S c.Quotient where
+  one_smul := by rintro ⟨⟩; exact congr_arg _ (one_smul ..)
+  mul_smul _ _ := by rintro ⟨⟩; exact congr_arg _ (mul_smul ..)
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/Congruence/Defs.lean]: Wouldn't it be more idiomatic to use [Function.Surjective.mulAction](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Action/Defs.html#Function.Surjective.mulAction) here? With a bit of `fast_instance%` magic of course.

Same comment applies to multiple things below.

**Review by ADedecker — COMMENTED** [review]
This looks mostly good, thanks!

**Comment by ADedecker** [comment]
Just to make sure that the `DirectLimit` changes don't have bad consequences:

!bench

File: Mathlib/Algebra/Module/Congruence/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,155 @@
...
+structure VAddCon [VAdd S M] extends Setoid M where
+  /-- A `VAddCon` is closed under additive action. -/
+  vadd (s : S) {x y} : r x y → r (s +ᵥ x) (s +ᵥ y)
+
+/-- A congruence relation that preserves scalar multiplication. -/
+@[to_additive] structure SMulCon [SMul S M] extends Setoid M where
+  /-- A `SMulCon` is closed under scalar multiplication. -/
+  smul (s : S) {x y} : r x y → r (s • x) (s • y)
+
+/-- A congruence relation that preserves addition and scalar multiplication. -/
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/Congruence/Defs.lean]: Do you want to add here a comment about the fact that this also applies to `DistribMulAction`s ?

File: Mathlib/Algebra/Module/Congruence/Defs.lean [hunk 10]
```diff
@@ -0,0 +1,155 @@
...
+@[to_additive /-- The kernel of an `AddActionHom` as a congruence relation. -/]
+def SMulCon.ker [SMul R M] [SMul S N] {φ : R → S} (f : M →ₑ[φ] N) : SMulCon R M where
+  __ := Setoid.ker f
+  smul r _ _ h := by rw [Setoid.ker_def] at h ⊢; simp_rw [map_smulₛₗ, h]
+
+/-- The kernel of a `DistribMulActionHom` as a congruence relation. -/
+def ModuleCon.ker [Monoid R] [Monoid S] [AddMonoid M] [AddMonoid N] [DistribMulAction R M]
+    [DistribMulAction S N] {φ : R →* S} (f : M →ₑ+[φ] N) : ModuleCon R M where
+  __ := SMulCon.ker f.toMulActionHom
+  __ := AddCon.ker f
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/Congruence/Defs.lean:147]: I'm not sure wether it's a good thing [Con.ker](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/Congruence/Hom.html#Con.ker) takes a hom-class, but for the sake of consistency could you do the same here?

**Comment by ADedecker** [comment]
!bench

**Comment by ADedecker** [comment]
bors d+

File: Mathlib/Algebra/Module/Congruence/Defs.lean (hunk 9 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/Congruence/Defs.lean]:
```suggestion
/-- A congruence relation that preserves addition and scalar multiplication.
The quotient by a `ModuleCon` inherits `DistribSMul`, `DistribMulAction`, and `Module` instances. -/
```

File: Mathlib/Algebra/Module/Congruence/Defs.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/Congruence/Defs.lean:147]: I think I'd keep it simple before the discussion around point 3 at [#**mathlib reviewers>Mathlib's morphism hierarchy@532152163** ](https://leanprover.zulipchat.com/#narrow/channel/345428-mathlib-reviewers/topic/Mathlib's.20morphism.20hierarchy/near/532152163) comes to a conclusion.

Comment (ADedecker) [reply Mathlib/Algebra/Module/Congruence/Defs.lean:147]: I tend to prefer consistency by considering that we can change everything at once if we decide so, but that's fine for me.

Comment (alreadydone) [reply Mathlib/Algebra/Module/Congruence/Defs.lean:147]: This is consistent with `MonoidHom.ker` though (and an attempt to generalize that in #10075 was not accepted).

**Comment by alreadydone** [comment]
Thanks 🎉 
bors r+
